US09428456B2
1-(3-Amino-benzyl)-piperidine-4-carboxylic acid isobutyl-methyl-amide BB-9
The title compound is prepared according to the reactions described above starting from 3-nitro-benzaldehyde and piperidine-4-carboxylic acid isobutyl-methyl-amide yielding after reductive amination 1-(3-nitro-benzyl)-piperidine-4-carboxylic acid isobutyl-methyl-amide; LC-MS A: tR=0.61 min; [M+H]+=366.35 followed by reduction with stannous chloride the title compound LC-MS A: tR=0.48 min; [M+H]+=304.24.

reactant | 3-nitro-benzaldehyde | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | piperidine-4-carboxylic acid isobutyl-methyl-amide | C(C(C)C)N(C(=O)C1CCNCC1)C | C11H22N2O
reactant | 1-(3-nitro-benzyl)-piperidine-4-carboxylic acid isobutyl-methyl-amide | C(C(C)C)N(C(=O)C1CCN(CC1)CC1=CC(=CC=C1)[N+](=O)[O-])C | C18H27N3O3
product | 1-(3-Amino-benzyl)-piperidine-4-carboxylic acid isobutyl-methyl-amide | C(C(C)C)N(C(=O)C1CCN(CC1)CC1=CC(=CC=C1)N)C | C18H29N3O
